US07786110B2
To a solution of 4′-methyl-5-thiazol-2-yl-biphenyl-3-carboxylic acid methyl ester (0.310 g, 1 mmol) in THF (10 mL) was added a solution of LiOH—H2O (1.2 mmol) in H2O (15 mL) at 0° C. The reaction was allowed to warm to room temperature and was stirred until the disappearance of the ester was confirmed by TLC. Solvent was removed under reduced pressure and the aqueous solution was acidified to pH=2 by dropwise addition of 10% aqueous HCl. The resulting solid was collected by filtration and dried to yield 4′-Methyl-5-thiazol-2-yl-biphenyl-3-carboxylic acid (0.22 g, 75%). MS (M+H)=296.

reactant | 4′-methyl-5-thiazol-2-yl-biphenyl-3-carboxylic acid methyl ester | 1 mmol, 0.310 g | COC(=O)C=1C=C(C=C(C1)C=1SC=CN1)C1=CC=C(C=C1)C | C18H15NO2S
reactant | LiOH—H2O | 1.2 mmol | O[Li].O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | H2O | 15 mL | O | H2O
product | 4′-Methyl-5-thiazol-2-yl-biphenyl-3-carboxylic acid | 0.22 g, 75% | CC1=CC=C(C=C1)C1=CC(=CC(=C1)C=1SC=CN1)C(=O)O | C17H13NO2S
